** sch_path: /home/bah67de/git/heichips26_dram_replica/macros/heichips26_dram_replica/macros/inverter/schematic/xschem/inverter.sch
.subckt inverter VDD vin vout VSS
*.PININFO vin:I VDD:B VSS:B vout:B
XMdummy1 VSS VSS VSS VSS sg13_lv_nmos w=2.0u l=1.0u ng=2 m=1 mm_ok=1
XMdummy2 VDD VDD VDD VDD sg13_lv_pmos w=12.0u l=1.0u ng=2 m=1 mm_ok=1
XM1 vout vin VSS VSS sg13_lv_nmos w=20.0u l=1.0u ng=20 m=1 mm_ok=1
XM2 vout vin VDD VDD sg13_lv_pmos w=120.0u l=1.0u ng=20 m=1 mm_ok=1
.ends
